.subckt sg13g2_nand3_4 Y A B C VDD VSS
XP0 Y A VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP1 Y B VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP2 Y C VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XN1 net2 B net3 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN2 net3 C VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN0 Y A net2 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
.ends
